US03959309
3-(Dimethylamino)-8-fluoro-1,2,3,4-tetrahydrocarbazole
Following the procedure given in Example 3 and using 7.8 g. of 4-dimethylaminocyclohexanone and 9 g. of 2-fluorophenylhydrazine hydrochloride there was obtained, after treatment of the free base in ether with ethereal hydrogen chloride, 6.5 g. of 3-(dimethylamino)-8-fluoro-1,2,3,4-tetrahydrocarbazole hydrochloride, m.p. 298°-302°C.

reactant | hydrogen chloride | Cl | ClH
reactant | 3-(dimethylamino)-8-fluoro-1,2,3,4-tetrahydrocarbazole hydrochloride | Cl.CN(C1CCC=2NC3=C(C=CC=C3C2C1)F)C
solvent | ether | CCOCC | C4H10O
product | 3-(Dimethylamino)-8-fluoro-1,2,3,4-tetrahydrocarbazole | CN(C1CCC=2NC3=C(C=CC=C3C2C1)F)C | C14H17FN2
